US06355631B1
182 mg of 1,2-benzisothiazol-3-amine 1,1-dioxide and 326 mg of cesium carbonate are added to 386 mg of 1-[bis(4-chlorophenyl)methyl]azetidin-3-yl methylsulfonate in solution in 10 cm3 of dimethylformamide. The reaction medium is then stirred at 100° C. for 9 hours and then concentrated under reduced pressure (2.7 kPa). The residue is washed four times with 5 cm3 of boiling distilled water, disintegrated by stirring in 5 cm3 of distilled water at room temperature and then recovered by filtration and purified by flash chromatography on silica gel [eluent: dichloromethane/methanol (98/2 by volume)]. 53 mg of N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-(1,1-dioxo-1H-1λ6-benzo[d]isothiazol-3-yl)amine are obtained in the form of a pasty product [[1H NMR spectrum (300 MHz, CDCl3, δ in ppm): 3.17 (mt: 2H); 3.61 (broad t, J=7.5 Hz: 2H); 4.37 (s: 1H); 4.75 (mt: 1H); from 6.30 to 6.40 (unresolved complex: 1H); from 7.20 to 7.35 (mt: 8H); 7.62 (broad d, J=7.5 Hz: 1H); 7.69 (broad t, J=7.5 Hz: 1H); 7.76 (broad t, J=7.5 Hz: 1H); 7.93 (broad d, J=7.5 Hz: 1H)].

reactant | 1,2-benzisothiazol-3-amine 1,1-dioxide | 182 mg | S1(N=C(C2=C1C=CC=C2)N)(=O)=O | C7H6N2O2S
reactant | cesium carbonate | 326 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-[bis(4-chlorophenyl)methyl]azetidin-3-yl methylsulfonate | 386 mg | CS(=O)(=O)OC1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C17H17Cl2NO3S
solvent | dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
product | N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-(1,1-dioxo-1H-1λ6-benzo[d]isothiazol-3-yl)amine | 53 mg | ClC1=CC=C(C=C1)C(N1CC(C1)NC1=NS(C2=C1C=CC=C2)(=O)=O)C2=CC=C(C=C2)Cl | C23H19Cl2N3O2S
